US05691323
A mixture of lithium 2-methyl-2-(5-pyrimidinyl)propionate (4.11 g), diphenylphosphoryl azide (13.2 g), triethylamine (4.86 g) and anhydrous tert-butyl alcohol (100 mL) was heated to reflux for 6 h, then allowed to cool and concentrated in vacuo. The residue was partitioned between chloroform (250 mL) and water (100 mL), and the chloroform was extracted, dried (MgSO4) and evaporated under reduced pressure. Chromatography on silica gel, eluting with chloroform; 5% methanol gave a partially purified sample of 2-(5-pyrimidinyl)-2-propylisocyanate as a colorless oil.

reactant | lithium 2-methyl-2-(5-pyrimidinyl)propionate | 4.11 g | CC(C(=O)[O-])(C)C=1C=NC=NC1.[Li+]
reactant | diphenylphosphoryl azide | 13.2 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 4.86 g | C(C)N(CC)CC | C6H15N
solvent | tert-butyl alcohol | 100 mL | C(C)(C)(C)O | C4H10O
product | 2-(5-pyrimidinyl)-2-propylisocyanate | N1=CN=CC(=C1)C(C)(C)N=C=O | C8H9N3O
